US05858518
In 11.81 kg of N-methyl-2-pyrrolidone were dissolved 0.949 kg (3.25 mols) of 1,3-bis(4-aminophenoxy)benzene, 0.936 kg (2.92 mols) of 2,2'-bis(trifluoromethyl)-4,4'-diaminobiphenyl, and 0.081 kg (0.33 mol) of bis(aminopropyl)tetramethyldisiloxane (the sum of the diamine components: 6.5 mols ) as diamines, and 0.956 kg (3.25 mols) of diphathalic acid dianhydride and 1,443 kg (3.25 mols) of 2,2-bis(3,4-dicarboxyphenyl) hexafluoropropane dihydride (the sum of the tetracarboxylic acid dianhydride components: 6.50 mols) as tetracarboxylic acid dianhydrides. The resulting solution was stirred at room temperature for 24 hours. The temperature of the solution was raised to 75° C. When the viscosity reached 5,000 c.p., heating was stopped, and the solution was allowed to stand to cool it to room temperature. 0.696 kg (1.93 mols) of an N-methyl compound was added to the solution, and a solution of a photosensitive polyimide resin precursor was prepared.

reactant | 1,3-bis(4-aminophenoxy)benzene | 3.25 mols, 0.949 kg | NC1=CC=C(OC2=CC(=CC=C2)OC2=CC=C(C=C2)N)C=C1 | C18H16N2O2
reactant | 2,2'-bis(trifluoromethyl)-4,4'-diaminobiphenyl | 2.92 mols, 0.936 kg | FC(C1=C(C=CC(=C1)N)C1=C(C=C(C=C1)N)C(F)(F)F)(F)F | C14H10F6N2
reactant | bis(aminopropyl)tetramethyldisiloxane | 0.33 mol, 0.081 kg | NCCC[Si](O[Si](C)(C)C)(C)CCCN | C10H28N2OSi2
reactant | diphathalic acid dianhydride | 3.25 mols, 0.956 kg | C(C=1C(C(=O)O)=CC=CC1)(=O)OC(C=1C(C(=O)OC(C=2C(C(=O)O)=CC=CC2)=O)=CC=CC1)=O | C24H14O10
reactant | 2,2-bis(3,4-dicarboxyphenyl) hexafluoropropane dihydride | 3.25 mols, 1,443 kg | [H-].[H-].C(=O)(O)C=1C=C(C=CC1C(=O)O)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)C(=O)O)C(=O)O
solvent | N-methyl-2-pyrrolidone | 11.81 kg | CN1C(CCC1)=O | C5H9NO
product | polyimide resin | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
